US08227500B2
(3-Benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-yl)methanol
To a suspension of lithium aluminum hydride (0.13 g) in tetrahydrofuran (5 mL) was added 3-benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester (0.65 g) at room temperature, and this mixture was stirred at same temperature for 3 hours. To this reaction mixture was added water, and the insoluble material was removed by filtration. This filtrate was dried over anhydrous magnesium sulfate, and this solvent was removed under reduced pressure to give the title compound (0.57 g).

reactant | lithium aluminum hydride | 0.13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.65 g | C(C)OC(=O)C=1C(=NN(C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H22N2O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3-Benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-yl)methanol | 0.57 g | C(C1=CC=CC=C1)OC1=NN(C=C1CO)COCC1=CC=CC=C1 | C19H20N2O3
